US08426587B2
To a solution of (E)-tert-butyl 3-fluoro-4-phenoxybut-2-enylcarbamate (0.026 g, 0.09 mmol) in diethyl ether (3 mL) was added HCl (2 M solution in diethyl ether; 0.23 mL) dropwise. The reaction mixture was then sealed and allowed to stand for 68 hours. The solvent was removed under reduced pressure, dissolved in methanol (2 mL), filtered, and the methanol removed. The resultant gum was dried at 60° C. to afford (E)-3-fluoro-4-phenoxybut-2-en-1-amine hydrochloride (0.009 g, 46%) as an off-white solid; m.p.=113-116° C.; 1H-NMR (200 MHz, CD3OD): δppm: 3.69 (2H, d, J 8.2 Hz), 4.75 (2H, d, J 17.8 Hz), 5.51 (1H, dt, J 18.2, 8.6 Hz), 6.91-7.03 (3H, m), 7.22-7.35 (2H, m).

reactant | (E)-tert-butyl 3-fluoro-4-phenoxybut-2-enylcarbamate | 0.09 mmol, 0.026 g | F/C(=C/CNC(OC(C)(C)C)=O)/COC1=CC=CC=C1 | C15H20FNO3
reactant | HCl | 2 M, 0.23 mL | Cl | ClH
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | (E)-3-fluoro-4-phenoxybut-2-en-1-amine hydrochloride | 0.009 g, 46% | Cl.F/C(=C/CN)/COC1=CC=CC=C1 | InChI=1S/C10H12FNO.ClH/c11-9(6-7-12)8-13-10-4-2-1-3-5-10;/h1-6H,7-8,12H2;1H/b9-6+;
